US06355653B1
To 10 ml of a 1 molar solution of lithiumborohydride in tetrahydrofuran were added 2.17 g (0.02 mol) trimethylchlorosilane. After stirring for one hour at room temperature the suspension was added dropwise to a suspension of 0.11 g (0.25 mol) 2-(2-methoxy-phenyl)-N-(2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-yl)-acetamide and the mixture heated for 18 hours at 50° C. Then 5 ml methanol were slowly added, the solvents were distilled off and the residue taken up in ethylacetate. The solution was washed with aqueous sodiumhydroxide and with water, dried with sodiumsulfate and evaporated. Recrystallisation from ethanol yielded 0.10 g (94%) [2-(2-methoxy-phenyl)-ethyl]-(2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-yl)-amine as beige crystals. MS m/e(%):422 (M+H+, 100).

reactant | lithiumborohydride | [BH4-].[Li+]
reactant | trimethylchlorosilane | 0.02 mol, 2.17 g | C[Si](Cl)(C)C | C3H9ClSi
reactant | 2-(2-methoxy-phenyl)-N-(2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-yl)-acetamide | 0.25 mol, 0.11 g | COC1=C(C=CC=C1)CC(=O)NC1=CC(=CC=2N1N=C(N2)C2=CC=CC=C2)C2=CC=NC=C2 | C26H21N5O2
reactant | methanol | 5 ml | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [2-(2-methoxy-phenyl)-ethyl]-(2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-yl)-amine | 0.10 g, 94% | COC1=C(C=CC=C1)CCNC1=CC(=CC=2N1N=C(N2)C2=CC=CC=C2)C2=CC=NC=C2 | C26H23N5O
